US07968725B2
h) 2-[2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid
A solution of 2-[2-[isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester (40 mg, 0.07 mmol) in NaOH (1N, 0.5 mL) and THF (3 mL) was stirred at 40° C. overnight. The mixture was cooled to room temperature, acidified with 10% citric acid, and extracted with CH2Cl2 (3×). The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by chromatography (5-20% ethyl acetate in CH2Cl2) to give the product as a white solid (28 mg, 71%). 1H NMR (300 MHz, CDCl3) δ 8.11 (d, J=8.29 Hz, 2H), 7.70 (d, J=8.29 Hz, 2H), 7.57-7.67 (m, 2H), 7.38 (d, J=8.29 Hz, 2H), 7.18 (s, 1H), 6.57 (s, 1H), 3.96 (d, J=7.54 Hz, 2H), 3.55 (t, J=7.54 Hz, 1H), 2.07-2.23 (m, 1H), 1.83-1.95 (m, 1H), 1.65 (dt, J=7.06, 13.75 Hz, 1H), 1.52 (dd, J=6.59, 13.37 Hz, 1H), 0.97 (d, J=6.78 Hz, 6H), 0.90 (dd, J=4.52, 6.40 Hz, 6H). MS m/e 553.3 (M+H).

reactant | 2-[2-[isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester | 0.07 mmol, 40 mg | COC(C(CC(C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N(C1=CC=C(C=C1)C(F)(F)F)CC(C)C)=O | C30H32F6N2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | NaOH | 1N, 0.5 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid | 28 mg, 71% | C(C(C)C)N(C1=NC(=CC(=C1)C(C(=O)O)CC(C)C)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C29H30F6N2O2
